US07064116B2
17β-(2-bromoethynyl)-5α-androstane-3α-ol
A solution of 1,1-dibromo-2-[3α-(t-butyldiphenylsilyloxy)-5α-androstan-17β-yl]-ethylene (0.074 mmol) in anhydrous tetrahydrofuran (3 mL) was treated with a 1M solution of (n-Bu)4N+F− (1.48 mL, 1.48 mmol) and the resulting solution was stirred at RT for 48 h. The mixture was quenched with saturated aqueous NH4Cl solution. Ethyl acetate was added and the organic layer was extracted with water and brine and was dried (Na2SO4). Evaporation of the solvent in vacuo followed by purification of the residue with flash column chromatography using methylene chloridelethyl acetate 95/5 as eluent afforded the desired compound named above.

reactant | 1,1-dibromo-2-[3α-(t-butyldiphenylsilyloxy)-5α-androstan-17β-yl]-ethylene | 0.074 mmol | BrC(=C[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3C[C@@H](CC[C@]3(C)[C@H]1CC2)O[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)Br | C37H50Br2OSi
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 17β-(2-bromoethynyl)-5α-androstane-3α-ol | Yield: 70% | BrC#C[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3C[C@@H](CC[C@]3(C)[C@H]1CC2)O | C21H31BrO
